US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(2-tolyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2. Reaction of 5-chlorosulfonyl-2-(2-tolyl)thiophene with 5-amino-4-bromo-3-methylisoxazole gave the crude product which was purified by column chromatography giving the pure product (gum). This gum was dissolved in 5 ml of NH4OH, concentrated and dried under high vacuum to get the ammonium salt of N-(4-bromo-3-methyl-5-isoxazolyl)-5-(2-tolyl)thiophene-2-sulfonamide in 67% yield, m.p. 180°-184° C. (NH3+ salt).

reactant | 5-chlorosulfonyl-2-(2-tolyl)thiophene | ClS(=O)(=O)C1=CC=C(S1)C1=C(C=CC=C1)C | C11H9ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(2-tolyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=C(C=CC=C1)C)C | C15H13BrN2O3S2
